US05214150
Preparation of 1-Methylheptyl (4-Amino-3,5-dichloro-6-fluoro-2-pyridinyloxy)acetate
Methyl (4-amino-3,5-dichloro-6-fluoro-2--pyridinyloxy)acetate (1375 g of 98.0 percent assay, 5.02 moles) was combined with 1901 g (14.6 moles of 1-methylheptanol (2-octanol) in a 5 liter flask equipped with a stirrer, a 30 centimeter (cm) Vigreaux column and distillation head, and a thermometer. The solution was heated to about 130° C. at 10 kiloPascals (kPa) pressure to remove any water present in the system. A 1.3 g portion of tetrabutyl titanate catalyst was added and the mixture was heated at about 150° C. under 60 kPa pressure for 6 hours, distilling out the nethanol as it formed. The pressure was slowly reduced to about 3.3 kPa and the excess 1-methylheptanol was removed by distillation along with any other volatiles. The residue, which amounted to 1857 g, was the title compound. It was found to be 97.4 percent pure and to contain 0.2 percent unreacted methyl ester and 0.1 percent 1-methylheptanol. The yield was, accordingly, 98 7 percent of theory.

reactant | Methyl (4-amino-3,5-dichloro-6-fluoro-2--pyridinyloxy)acetate | 5.02 moles, 1375 g | NC1=C(C(=NC(=C1Cl)F)OCC(=O)OC)Cl | C8H7Cl2FN2O3
reactant | 1-methylheptanol | 14.6 moles | CC(CCCCCC)O | C8H18O
product | 1-Methylheptyl (4-Amino-3,5-dichloro-6-fluoro-2-pyridinyloxy)acetate | NC1=C(C(=NC(=C1Cl)F)OCC(=O)OC(CCCCCC)C)Cl | C15H21Cl2FN2O3
